US07220856B2
Preparation of 4-[4-(tert-Butylamino(cyanimino)methyl)piperazin-1-yl]-7-chloroquinoline
7-Chloro-4-[4-(cyanimino(phenoxy)methyl)piperazin-1-yl]quinoline (53 mg, 0.14 mmol) and tert-butylamine (2.0 mL, 19 mmol) are heated in pyridine (10 mL) for 6 h at reflux. The solvent is removed, and the residue purified by column chromatography with CH2Cl2-MeOH giving the title product as a colorless solid.

reactant | 7-Chloro-4-[4-(cyanimino(phenoxy)methyl)piperazin-1-yl]quinoline | 0.14 mmol, 53 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(OC1=CC=CC=C1)=NC#N | C21H18ClN5O
reactant | tert-butylamine | 19 mmol, 2.0 mL | C(C)(C)(C)N | C4H11N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-[4-(tert-Butylamino(cyanimino)methyl)piperazin-1-yl]-7-chloroquinoline | C(C)(C)(C)NC(N1CCN(CC1)C1=CC=NC2=CC(=CC=C12)Cl)=NC#N | C19H23ClN6
